US05466817
[3S-[3α,4β(S*)]]-N-(6-Cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-yl-α-hydroxybenzeneacetamide
To a solution of (trans)-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (prepared according to Evans et al., J. Med. Chem., 1983, 26, p. 1582 and J. Med. Chem., 1986, 29, p. 2194) (1.64 g, 7.5 mmol), R(-)-mandelic acid (1.14 g, 7.5 mmol), hydroxybenzotriazole hydrate (1.0 g, 7.5 mmol) in dimethylformamide (15 ml) at 0° C. was added dicyclohexylcarbodiimide (1.55 g, 7.5 mmol) at room temperature. The reaction mixture was allowed to stir at room temperature for 20 hours and then cooled in an ice bath. The solid was removed by filtration and the filtrate was concentrated in vacuo. The residue was dissolved in 5% methanol in chloroform and washed wish 1N sodium hydroxide, 1N hydrochloric acid, brine followed by drying over anhydrous magnesium sulfate. After removing drying agent the solvent was removed in vacuo. The residue was crystallized from ethanol to give the title compound (0.85 g) as a white solid, m.p. 235°-237° C.: [αD ]25 =-94.9° (c=1, MeOH); 1H NMR (DMSO-d6) δ8.45 (d, J=8.0 Hz, 1H), 7.5 (m, 4H), 7.3 (m, 2H), 7.0 (s, 1H), 6.88 (d, J=8.0 Hz, 1H), 6.2 (s, 1H), 5.57 (d, J=5.0 Hz, 1H), 5.0 (s, 1H), 4.76 (t, J=9.0 Hz, 1H), 3.75 (dd, J=4.0 & 5.0 Hz, 1H), 1.40 (s, 3H), 1.15 (s, 3H).

reactant | (trans)-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 7.5 mmol, 1.64 g | N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C12H14N2O2
reactant | R(-)-mandelic acid | 7.5 mmol, 1.14 g | C1=CC=C(C=C1)[C@H](C(=O)O)O | C8H8O3
reactant | hydroxybenzotriazole hydrate | 7.5 mmol, 1.0 g | O.OC1=CC=CC=2NN=NC21
reactant | dicyclohexylcarbodiimide | 7.5 mmol, 1.55 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 6-Cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-yl-α-hydroxybenzeneacetamide | 0.85 g | C(#N)C=1C=CC2=C(C(=C(C(O2)(C)C)O)C2=C(C=CCC2)C(C(=O)N)O)C1 | C20H20N2O4
